US07517875B2
After suspending 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid (1.20 g, 3.20 mmol) in a mixed solvent of dimethylformamide and tetrahydrofuran (1:1, 20 ml), 1-hydroxybenzotriazole monohydrate (737 mg, 4.81 mmol) and 2-methoxyethylamine (0.42 ml, 4.8 mmol) were added. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.90 g, 6.40 mmol) was further added, and then the mixture was stirred at room temperature for 4 hours. Water (100 ml) was added to the reaction mixture, extraction was preferred with ethyl acetate (150 ml×3 times), and the organic layer was washed with saturated brine (100 ml) and then dried over anhydrous magnesium sulfate. The residue obtained by concentrating this under reduced pressure was purified by silica gel column chromatography (ethyl acetate/methanol=30/1) to obtain 4-{[4-(2-methoxy-ethylcarbamoyl)-1H-benzimidazol-2-ylamino)-methyl}-piperidine-1-carboxylic acid tert-butyl ester. The compound was identified by LC-MS.

reactant | 2-[(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid | 3.20 mmol, 1.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2C(=O)O | C19H26N4O4
reactant | 1-hydroxybenzotriazole monohydrate | 4.81 mmol, 737 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methoxyethylamine | 4.8 mmol, 0.42 ml | COCCN | C3H9NO
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 6.40 mmol, 1.90 g | Cl.C(C)N=C=NCCCN(C)C
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-{[4-(2-methoxy-ethylcarbamoyl)-1H-benzimidazol-2-ylamino)-methyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2C(NCCOC)=O | C22H33N5O4
